// LB_LFSR: Linear Feedback Shift Register
simulator lang=spectre
global 0

ahdl_include "lfsr.va"

// Power supplies
Vvdd (vdd 0) vsource dc=0.9 type=dc
Vvss (vss 0) vsource dc=0.0 type=dc
Ven (en 0) vsource dc=0.9 type=dc

// Reset: active low, deassert after 100ns
Vrstb (rstb 0) vsource type=pwl wave=[0 0 100e-9 0 101e-9 0.9 500e-9 0.9]

// Clock: 1GHz, delayed 2.5ns
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=1n delay=2.5n \
        rise=10p fall=10p

// DUT (port order: DPN VDD VSS CLK EN RSTB)
IDUT (dpn vdd vss clk en rstb) lfsr seed=123

tran tran stop=500n maxstep=10p
save clk dpn rstb
